US08227462B2
Imidazole-1-carboxylic acid [5-(6-cyclopropyl-pyrazin-2-yl)-4-methyl-thiazol-2-yl]-amide
Carbonyl diimidazole (74 mg) is added to a solution of 5-(6-cyclopropyl-pyrazin-2-yl)-4-methyl-thiazol-2-ylamine (96 mg) in DMF (2 ml) at room temperature and stood for 18 hours at room temperature. The reaction mixture is filtered, washing with dichloromethane, to give the title compound.

reactant | Carbonyl diimidazole | 74 mg | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 5-(6-cyclopropyl-pyrazin-2-yl)-4-methyl-thiazol-2-ylamine | 96 mg | C1(CC1)C1=CN=CC(=N1)C1=C(N=C(S1)N)C | C11H12N4S
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
product | Imidazole-1-carboxylic acid [5-(6-cyclopropyl-pyrazin-2-yl)-4-methyl-thiazol-2-yl]-amide | C1(CC1)C1=CN=CC(=N1)C1=C(N=C(S1)NC(=O)N1C=NC=C1)C | C15H14N6OS
